US04564621
Conc. sulfuric acid (11 ml) was added to 4-(N,N-dimethylamino)-2-phenyl-2-(2-pyridyl)-valeronitrile (6.3 g) at 0° C. and then water (1 ml) was added thereto. After being heated at 90° C. for 3 hours, the mixture was poured into ice-water, adjusted to pH 10 with 10% aqueous sodium hydroxide and extracted with ethyl acetate (50 ml×3). The extracts were combined, and washed with water, dried over magnesium sulfate and evaporated under reduced pressure. The obtained crude crystal was recrystallized from diethyl ether to give 4-(N,N-dimethylamino)-2-phenyl-2-(2-pyridyl)-valeramide (1.89 g). mp 132°-134° C.

reactant | sulfuric acid | 11 ml | S(O)(O)(=O)=O | H2O4S
reactant | 4-(N,N-dimethylamino)-2-phenyl-2-(2-pyridyl)-valeronitrile | 6.3 g | CN(C)C(CC(C#N)(C1=NC=CC=C1)C1=CC=CC=C1)C | C18H21N3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 1 ml | O | H2O
product | 4-(N,N-dimethylamino)-2-phenyl-2-(2-pyridyl)-valeramide | 1.89 g | CN(C)C(CC(C(=O)N)(C1=NC=CC=C1)C1=CC=CC=C1)C | C18H23N3O
